US08242145B2
Step 1: [3-(4-Bromo-2-formyl-phenoxy)-4-methoxy-phenyl]acetic acid methyl ester
Prepared according to the procedure described in Example 6, Step 2, using the following starting materials: (3-hydroxy-4-methoxy-phenyl)-acetic acid methyl ester and 5-bromo-2-fluorobenzaldehyde.

reactant | (3-hydroxy-4-methoxy-phenyl)-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)O)=O | C10H12O4
reactant | 5-bromo-2-fluorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
product | [3-(4-Bromo-2-formyl-phenoxy)-4-methoxy-phenyl]acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)C=O)=O | C17H15BrO5
